US04876046
β-t-octyladipic acid (86.1 g, 0.33 mol) was powdered using a mortar and pestle and added to a beaker containing 98% methanesulfonic acid. The resultant suspension was cooled to 20° C. and 70% hydrogen peroxide was added slowly with constant stirring to maintain the temperature just below 40° C. After the addition was complete (about one-half hour) the suspension was stirred at room temperature for 1 hour after which the resultant clear solution was poured into 500 ml of cold distilled water, and extracted with dichloromethane (3×100 ml). The dichloromethane solution was washed with distilled water (2×50 ml), dried over anhydrous magnesium sulfate after which the solvent was removed on a rotary evaporator to provide a clear oil. Storage of the oil in a stoppered flask overnight at 0.5° C. resulted in crystallization of β-t-octyldiperoxyadipic acid as a white brittle solid (83.4 g,; mp 60°-62° C.; % AvO=9.3, theory 11.0; HPLC, C18ODS column, 70% methanol solent, retention time: 6.3 min., diperoxy-acid, relative peak area 76%; 7.4 min, monoperoxyacid, relative peak area 24%.

reactant | β-t-octyladipic acid | 0.33 mol, 86.1 g | C(C)(C)(CC(C)(C)C)C(CC(=O)O)CCC(=O)O | C14H26O4
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | hydrogen peroxide | OO | H2O2
product | β-t-octyldiperoxyadipic acid | C(C)(C)(CC(C)(C)C)C(CC(=O)OO)CCC(=O)OO | C14H26O6
